US09388174B2
A reaction mixture solution prepared by suspending 1.14 g of ethyl 2-(3-nitro-4-phenoxyphenyl)-4-methyl-1,3-thiazole-5-carboxylate in 15 mL of ethanol and adding 300 mg of palladium/carbon (10 wt %) was stirred at room temperature for 14 hours under a hydrogen atmosphere. The reaction mixture solution was celite-filtered and the filtrate was concentrated under reduced pressure to obtain 1.05 g of ethyl 2-(3-amino-4-phenoxyphenyl)-4-methyl-1,3-thiazole-5-carboxylate.

reactant | ethyl 2-(3-nitro-4-phenoxyphenyl)-4-methyl-1,3-thiazole-5-carboxylate | 1.14 g | [N+](=O)([O-])C=1C=C(C=CC1OC1=CC=CC=C1)C=1SC(=C(N1)C)C(=O)OCC | C19H16N2O5S
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | palladium/carbon | 300 mg | [Pd] | Pd
product | ethyl 2-(3-amino-4-phenoxyphenyl)-4-methyl-1,3-thiazole-5-carboxylate | 1.05 g | NC=1C=C(C=CC1OC1=CC=CC=C1)C=1SC(=C(N1)C)C(=O)OCC | C19H18N2O3S
